US04390697
6 g of ethyl 4-(4-acetamidobutyl)-piperazine-1-carboxylate were dissolved in a mixture of 12 ml of conc. hydrochloric acid and 24 ml of water and the solution was refluxed for 5 hours. The solution was then cooled to room temperature and made alkaline with potassium carbonate. The mixture was extracted 3 times with 100 ml of chloroform and the combined extracts were dried over MgSO4 and evaporated to dryness to obtain 4 g (79% yield) of ethyl 4-(4-aminobutyl)-piperazine-1-carboxylate in the form of a pale yellow oil which slowly solidified.

reactant | ethyl 4-(4-acetamidobutyl)-piperazine-1-carboxylate | 6 g | C(C)(=O)NCCCCN1CCN(CC1)C(=O)OCC | C13H25N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 12 ml | Cl | ClH
solvent | water | 24 ml | O | H2O
product | ethyl 4-(4-aminobutyl)-piperazine-1-carboxylate | 4 g, 79% yield | NCCCCN1CCN(CC1)C(=O)OCC | C11H23N3O2
